US09212182B2
A flask containing perfluorophenyl 1-(5-bromo-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (3.65 g, 6.33 mmol) and N-(4-methoxybenzyl)isoxazol-3-amine (1.358 g, 6.65 mmol) was flushed with nitrogen and then charged with THF (63.3 ml) and cooled to 0° C. Lithium bis(trimethylsilyl)amide (1.0M in THF) (6.97 ml, 6.97 mmol) was added slowly, and the solution was stirred at 0° C. for 45 minutes until complete consumption of starting material. The reaction was quenched with water and extracted (×3) with EtOAc. The combined organics were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude solid was triturated in IPA and filtered, washing well with IPA, to yield 1-(5-bromo-2-methoxyphenyl)-N-(isoxazol-3-yl)-N-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (2.65 g, 4.44 mmol, 70.1% yield) as a white solid. m/z (ESI) 596.0 (M+H)+.

reactant | perfluorophenyl 1-(5-bromo-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 6.33 mmol, 3.65 g | BrC=1C=CC(=C(C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)OC | C22H11BrF5NO5S
reactant | N-(4-methoxybenzyl)isoxazol-3-amine | 6.65 mmol, 1.358 g | COC1=CC=C(CNC2=NOC=C2)C=C1 | C11H12N2O2
reactant | Lithium bis(trimethylsilyl)amide | 6.97 mmol, 1.0M, 6.97 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
product | 1-(5-bromo-2-methoxyphenyl)-N-(isoxazol-3-yl)-N-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 4.44 mmol, 2.65 g, 70.1% yield | BrC=1C=CC(=C(C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)N(CC1=CC=C(C=C1)OC)C1=NOC=C1)=O)OC | C27H22BrN3O6S
